US05473003
8.17 g (19 mmol) of 1,5-di(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)-1,5-pentanedione in 80 ml of ethyl acetate and 3-5 drops of concentrated sulfuric acid are hydrogenated over 1.6 g of Pd/C (5%) at room temperature under atmospheric pressure. After 12 hours, the uptake of hydrogen has ended. The catalyst is filtered over Celite and the resulting colourless solution is concentrated on a rotary evaporator. Chromatography of the liquid residue (SiO2, hexane/ethyl acetate 19:1) gives 5.13 g (67% of theory) of 1,5-bis(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)pentane as a viscous oil.

reactant | 1,5-di(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)-1,5-pentanedione | 19 mmol, 8.17 g | C(C)(C)(C)C=1C=C(C=C(C1O)C)C(CCCC(=O)C1=CC(=C(C(=C1)C)O)C(C)(C)C)=O | C27H36O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | sulfuric acid | 3-5 drops | S(O)(O)(=O)=O | H2O4S
catalyst | Pd/C | 1.6 g | [Pd] | Pd
product | 1,5-bis(3'-tert-butyl-5'-methyl-4'-hydroxyphenyl)pentane | 5.13 g, 67% | C(C)(C)(C)C=1C=C(C=C(C1O)C)CCCCCC1=CC(=C(C(=C1)C)O)C(C)(C)C | C27H40O2
